US05932571
Combine 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane (1.30 g, 5.0 mmol), tetrahydrofuran (40 mL), and water (10 mL). Add dropwise a solution of di-t-butyl dicarbonate (1.09 g, 5.0 mmol) in tetrahydrofuran (15 mL). After 18 hours, concentrate the reaction mixture in vacuo to remove most of the tetrahydrofuran and combine the concentrated reaction mixture with dichloromethane. Separate the layers, dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.25 (silica gel, ethyl acetate).

reactant | 4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | 5.0 mmol, 1.30 g | OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2 | C14H20N4O
reactant | water | 10 mL | O | H2O
reactant | di-t-butyl dicarbonate | 5.0 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-(t-butoxycarbonyl)-4-(1-(2-hydroxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCO)C=CC=C2 | C19H28N4O3
